US05420309
5-Chlorosulphonyl-2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole
136 g of 2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole were dissolved in 125 ml of chloroform. 175 g of chlorosulphonic acid were added dropwise at 0° C., with stirring, and the reaction mixture was subsequently stirred at room temperature until the evolution of gas had ended. It was then poured into 750 g of ice-water, the phases were separated and the aqueous phase was extracted with chloroform. The combined organic phases were washed with ice-water and sodium hydrogencarbonate solution and dried over magnesium sulphate and the readily volatile components were removed on a rotary evaporator to give 133 g of product (=72% of theory). The melting point was 55° to 57° C. 19F NMR: -60.8 and -86.5 ppm. 1H NMR: 3.13 ppm.

reactant | 2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole | 136 g | FC(CC1(OC2=C(O1)C=CC=C2)C(F)(F)F)(F)F | C10H6F6O2
reactant | chlorosulphonic acid | 175 g | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chlorosulphonyl-2-(2,2,2-trifluoroethyl)-2-trifluoromethyl-1,3-benzodioxole | 133 g, 72% | ClS(=O)(=O)C1=CC2=C(OC(O2)(C(F)(F)F)CC(F)(F)F)C=C1 | C10H5ClF6O4S
